US06943255B2
Under a nitrogen atmosphere, a solution of 2,4-dichloro-6-methyl-3-nitropyridine (125 g, 0.604 mol) in anhydrous N,N-dimethylformamide (625 mL) was cooled to 0° C. Triethylamine (84.2 mL, 0.604 mol) was added. 2-Methylpropylamine (66 mL, 0.664 mol) was added dropwise to the resulting solution over a period of one hour; the reaction reached a temperature of 17° C. and became yellow. The reaction was allowed to warm to room temperature and stir overnight. The reaction mixture was filtered to remove salts, and then the N,N-dimethylformamide was removed under reduced pressure. The crude product was dissolved in ethyl acetate (750 mL), and the solution was washed with water (3×1L), dried over magnesium sulfate, and then concentrated under reduced pressure. Hexane (300 mL) was added to the resulting yellow oil; the mixture was heated until the oil dissolved and then placed in a freezer. After ten minutes, the recrystallization mixture was seeded with crystals made in a previous run and then left undisturbed for four hours. The resulting precipitate was filtered, washed with cold hexane, and dried in a vacuum oven at room temperature to provide 98 g of 2-chloro-N-(2-methylpropyl)-6-methyl-3-nitropyridin-4-amine.

reactant | 2,4-dichloro-6-methyl-3-nitropyridine | 0.604 mol, 125 g | ClC1=NC(=CC(=C1[N+](=O)[O-])Cl)C | C6H4Cl2N2O2
reactant | Triethylamine | 0.604 mol, 84.2 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Methylpropylamine | 0.664 mol, 66 mL | CC(CN)C | C4H11N
solvent | N,N-dimethylformamide | 625 mL | CN(C=O)C | C3H7NO
product | 2-chloro-N-(2-methylpropyl)-6-methyl-3-nitropyridin-4-amine | 98 g | ClC1=NC(=CC(=C1[N+](=O)[O-])NCC(C)C)C | C10H14ClN3O2
